US04205078
23.1 g. 1-n-butyl-3-hydroxy-4-phenyl-3-pyrrolin-2-one is reacted with 20.3 g. β-diethylaminoethyl chloride in a manner analogous to that described in Example 1. The 1-n-butyl-3-(β-diethylaminoethoxy)-4-phenyl-3-pyrrolin-2-one obtained in the form of the free base is reacted in diethyl ether with oxalic acid to give the crystalline oxalate. The yield is 24.2 g. (58% of theory); m.p. 120°-121° C.; after recrystallization from methyl ethyl ketone.

reactant | 1-n-butyl-3-hydroxy-4-phenyl-3-pyrrolin-2-one | C(CCC)N1C(C(=C(C1)C1=CC=CC=C1)O)=O | C14H17NO2
reactant | β-diethylaminoethyl chloride | C(C)N(CCCl)CC | C6H14ClN
product | 1-n-butyl-3-(β-diethylaminoethoxy)-4-phenyl-3-pyrrolin-2-one | C(CCC)N1C(C(=C(C1)C1=CC=CC=C1)OCCN(CC)CC)=O | C20H30N2O2
